US07470679B2
2-(R)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester
Potassium carbonate (380 mg, 2.7 mmol) was added to a solution of 2-(R)-(4-acetoxymethyl-1H-indazol-5-ylmethyl)-succinic acid diethyl ester (420 mg, 1.1 mmol) in methanol (10 mL). Mixture was stirred at room temperature for 2 hours. Reaction was quenched with 1N hydrochloric acid. Methanol was removed from the mixture in vacuo. Remaining aqueous made basic with sodium bicarbonate. Mixture was extracted with ethyl acetate (2×20 mL). Combined organic layers were washed successively with water (20 mL) and brine (20 mL). Organic was dried (magnesium sulfate), filtered and concentrated in vacuo. Title compound was obtained as amber oil in 92% yield. MS m/e (M+H)+=307.1.

reactant | Potassium carbonate | 2.7 mmol, 380 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(R)-(4-acetoxymethyl-1H-indazol-5-ylmethyl)-succinic acid diethyl ester | 1.1 mmol, 420 mg | C(C)OC([C@@H](CC(=O)OCC)CC=1C(=C2C=NNC2=CC1)COC(C)=O)=O | C19H24N2O6
solvent | methanol | 10 mL | CO | CH4O
product | 2-(R)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester | 92% yield | COC([C@@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CO)=O | C15H18N2O5
